US04020177
Preparation of 8-(1-Hydroxyethyl)-12-hydroxy-13-(4-fluorophenoxy)tridecanoic Acid
Sodium borohydride (1.2 g., 0.03 mole) is added to a solution of 8-acetyl-12-hydroxy-13-(4-fluorophenoxy)-tridecanoic acid (15.4 g., 0.04 mole) and sodium hydroxide (2.0 g., 0.05 mole) in 70 ml. of water. The resulting solution is allowed to stand at room temperature for 19 hours, and is then acidified to Congo Red with concentrated hydrochloric acid. The oil product is taken up in ether, washed with water and dried over sodium sulfate. The ether is evaporated leaving 12.8 g. of the crude title compound as a brown oil.

reactant | Sodium borohydride | 0.03 mole, 1.2 g | [BH4-].[Na+]
reactant | 8-acetyl-12-hydroxy-13-(4-fluorophenoxy)-tridecanoic acid | 0.04 mole, 15.4 g | C(C)(=O)C(CCCCCCC(=O)O)CCCC(COC1=CC=C(C=C1)F)O | C21H31FO5
reactant | sodium hydroxide | 0.05 mole, 2.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 8-(1-Hydroxyethyl)-12-hydroxy-13-(4-fluorophenoxy)tridecanoic Acid | OC(C)C(CCCCCCC(=O)O)CCCC(COC1=CC=C(C=C1)F)O | C21H33FO5
